US05399703
Step 1 Ethyl 2-(2-nitrophenylthio)benzoate
In 100 ml of N,N-dimethylformamide was dissolved 15.4 g of thiosalicylic acid followed by addition of 42 g of potassium carbonate and 14.8 g of 2-fluoronitrobenzene, and the mixture was stirred at 100° C. for 3 hours. After the reaction mixture had cooled to room temperature, 18.7 g of ethyl iodide was added thereto and the mixture was further stirred at room temperature for 3 hours. The reaction mixture was then poured into ice-water and extracted with ether. The ether layer was washed with water twice, dried and concentrated. Finally the residue was crystallized from ethanol to give 25.5 g of the title compound as yellow crystals.

reactant | thiosalicylic acid | 15.4 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | potassium carbonate | 42 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoronitrobenzene | 14.8 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | ethyl iodide | 18.7 g | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(2-nitrophenylthio)benzoate | 25.5 g | [N+](=O)([O-])C1=C(C=CC=C1)SC1=C(C(=O)OCC)C=CC=C1 | C15H13NO4S
